US07932272B2
2-Amino-6-(2-cyanoethyl)-nicotinic Acid
To a solvent mixture of 2N-sodium hydroxide aqueous solution (5 mL) and methanol (5 mL) was added 2-amino-6-(2-cyanoethyl)-nicotinic acid methyl ester (90 mg, 0.439 mmol), and the solution was stirred for 18 hours at room temperature. This mixed solution was neutralized with 5N-hydrochloric acid, then, extracted with ethyl acetate. This organic layer was dried over anhydrous magnesium sulfate, then, the solvent was evaporated in vacuo, and the title compound (68 mg, 0.355 mmol, 81%) was obtained as a yellowish brown solid.

reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | 2-amino-6-(2-cyanoethyl)-nicotinic acid methyl ester | 0.439 mmol, 90 mg | COC(C1=C(N=C(C=C1)CCC#N)N)=O | C10H11N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2-Amino-6-(2-cyanoethyl)-nicotinic Acid | 0.355 mmol, 68 mg, 81% | NC1=C(C(=O)O)C=CC(=N1)CCC#N | C9H9N3O2
